US04059704
6-Chloro-4-methyl-3-(tetrazol-5-yl) coumarin
The reaction of 6-Chloro-3-cyano-4-methyl coumarin with ammonium azide as described in Example 1 yielded the title product, m.p. (EtOH) 219°-223° C. (Found: C, 50.30; H, 2.69; N, 21.33; C11H7ClN4O2 requires; C, 50.04; H, 2.84; N, 21.63%).

reactant | 6-Chloro-3-cyano-4-methyl coumarin | ClC=1C=C2C(=C(C(OC2=CC1)=O)C#N)C | C11H6ClNO2
reactant | ammonium azide | [N-]=[N+]=[N-].[NH4+]
solvent | EtOH | CCO | C2H6O
product | 6-Chloro-4-methyl-3-(tetrazol-5-yl) coumarin | ClC=1C=C2C(=C(C(OC2=CC1)=O)C1=NN=NN1)C | C11H7ClN4O2
